US05646173
A solution of 10.0 g of 6-fluoro-3,3-dimethyl-1-indanone, 11.1 ml of 3-buten-2-ol and 200 mg of p-toluenesulfonic acid in 200 ml of 2,2-dimethoxypropane was boiled under reflux for 96 hours on a water separator filled with molecular sieve (0.4 nm, 2 mm pearl shaped). The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/ethyl acetate 8:1). In addition to 11.9 g of educt, there were obtained 3.38 g (26%) of (RS)-2-(2-buten-1-yl)-6-fluoro-3,3-dimethyl-1-indanone as a yellow oil.

reactant | 6-fluoro-3,3-dimethyl-1-indanone | 10.0 g | FC1=CC=C2C(CC(C2=C1)=O)(C)C | C11H11FO
reactant | 3-buten-2-ol | 11.1 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | 2,2-dimethoxypropane | 200 ml | COC(C)(C)OC | C5H12O2
product | (RS)-2-(2-buten-1-yl)-6-fluoro-3,3-dimethyl-1-indanone | 3.38 g, 26% | C(C=CC)C1C(C2=CC(=CC=C2C1(C)C)F)=O | C15H17FO
